US04985560
N-(1-Azabicyclo[2.2.2]oct-3-yl)-N'-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine
To a solution of 3-quinuclidinone hydrochloride (600 mg, 3.7 mmol) in methanol (15 mL) was added a solution of N-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine (900 mg, 3.7 mmol) in methanol (11 mL) over a one minute period at room temperature. After stirring for 5 to 10 minutes, a solution of zinc modified cyanoborohydride (8.7 mL of 0.50M cyanoborohydride in methanol, 4.4 mmol) was added [Kim, et al., J. Org. Chem. 50, 1927 (1985)]. A yellow precipitate formed. After stirring for 4 days at room temperature, 50% sodium hydroxide (1 mL) was added and the solvent was evaporated. The residue was mixed with 4:1 chloroform:methanol (at 20 mL) and filtered through a plug of basic alumina. The filtrate was evaporated and the residue was purified by flash chromatography (alumina, 4:1 chloroform:methanol to 100% methanol) to give the title compound as the free base which was converted to the fumaric acid salt (fumaric acid/ethanol), mp 205°-208° C.

reactant | 3-quinuclidinone hydrochloride | 3.7 mmol, 600 mg | Cl.N12CC(C(CC1)CC2)=O
reactant | N-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine | 3.7 mmol, 900 mg | CC1=NN=C(C=2C=C3C=CC=CN3C21)NCCN | C13H15N5
reactant | cyanoborohydride | 4.4 mmol, 0.50M, 8.7 mL | C(#N)[BH3-]
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 11 mL | CO | CH4O
catalyst | zinc | [Zn] | Zn
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-N'-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine | N12CC(C(CC1)CC2)NCCNC2=NN=C(C1=C2C=C2C=CC=CN12)C | C20H26N6
